US09193692B2
B. 7-Bromo-1-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
Ethyl 2-(5-bromo-3-(2-(tetrahydro-2H-pyran-4-yl)ethylamino)pyrazin-2-ylamino)acetate (0.5 g, 1.291 mmol) and hydrochloric acid (6 M in water, 0.215 mL, 1.291 mmol) were combined in ethanol (2 mL) and the resulting mixture was heated in a Biotage Emrys Optimizer microwave reactor at 100° C. for 2400 s. The reaction mixture was concentrated and purified using silica gel chromatography (33% ethyl acetate in hexanes) to yield the title compound (quantitative yield). MS (ESI) m/z 341.1 [M]+, 343.1 [M+2]+.

reactant | Ethyl 2-(5-bromo-3-(2-(tetrahydro-2H-pyran-4-yl)ethylamino)pyrazin-2-ylamino)acetate | 1.291 mmol, 0.5 g | BrC=1N=C(C(=NC1)NCC(=O)OCC)NCCC1CCOCC1 | C15H23BrN4O3
reactant | hydrochloric acid | 1.291 mmol, 6 M, 0.215 mL | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 7-Bromo-1-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | quantitative yield | BrC1=CN=C2C(=N1)N(C(CN2)=O)CCC2CCOCC2 | C13H17BrN4O2
